US08754107B2
To a suspension of CDI (0.949 g, 5.86 mmol) in THF (10 mL) was added 3-trifluoromethyl-5,6,7,8-tetrahydro-[1,6]naphthyridine (0.988 g, 4.88 mmol) and the reaction mixture was heated at about 60° C. for about 16 h. The reaction mixture was cooled at ambient temperature and concentrated in vacuo to afford a light orange solid. The residue was dissolved in DCM (10 mL), washed with water (2×10 mL), and the organic portion was separated, dried over MgSO4, filtered, and concentrated in vacuo to give imidazol-1-yl-(3-trifluoromethyl-7,8-dihydro-5H-[1,6]naphthyridin-6-yl)-methanone (1.28 g, 88%) as a yellow solid which was used in subsequent reactions without further purification. RP-HPLC (Table 1, Method d) Rt 2.10 min; m/z: (M+H)+ 297.

reactant | CDI | 5.86 mmol, 0.949 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-trifluoromethyl-5,6,7,8-tetrahydro-[1,6]naphthyridine | 4.88 mmol, 0.988 g | FC(C=1C=NC=2CCNCC2C1)(F)F | C9H9F3N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | imidazol-1-yl-(3-trifluoromethyl-7,8-dihydro-5H-[1,6]naphthyridin-6-yl)-methanone | 1.28 g, 88% | N1(C=NC=C1)C(=O)N1CC=2C=C(C=NC2CC1)C(F)(F)F | C13H11F3N4O
